US05654318
7-[(S,S)-2,8-diazabicyclo[4.3.0]nonan-8-yl]-6,8-difluoro-1-[(1R,2S)-2-fluorocyclopropyl]-1,4-dihydro-4-oxoquinoline-3-carboxylic acid
A solution of 301 mg of 6,7,8-trifluoro-1-[(1R,2S)-2-fluorocyclopropyl]-1,4-dihydro-4-oxoquinoline-3-carboxylic acid (JP-A-5-163244), 463 mg of (S,S)-2,8-diazabicyclo[4.3.0]nonane, 1 ml of triethylamine in 10 ml of acetonitrile was heated under reflux for 15 hours. To the mixture was added 50 ml of water, and the solvent was removed under reduced pressure. The mixture was extracted from three 50 ml portions of chloroform, and the extract was dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure. A residue was dissolved in 10 ml of trifluoroacetic acid, and the solution was stirred at room temperature for 2 hours. Trifluoracetic acid was removed under reduced pressure and to a residue was added 1N sodium hydroxide aqueous solution till a pH became 12. To the solution was added hydrochloric acid till the pH became 7.4. The solution was extracted with six 50 ml portions of chloroform. The extract was dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure and a residue was recrystallized from ethanol to yield 320 mg of the titled compound.

reactant | 6,7,8-trifluoro-1-[(1R,2S)-2-fluorocyclopropyl]-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 301 mg | FC=1C=C2C(C(=CN(C2=C(C1F)F)[C@H]1[C@H](C1)F)C(=O)O)=O | C13H7F4NO3
reactant | (S,S)-2,8-diazabicyclo[4.3.0]nonane | 463 mg | [C@@H]12NCCC[C@H]2CNC1 | C7H14N2
reactant | triethylamine | 1 ml | C(C)N(CC)CC | C6H15N
reactant | water | 50 ml | O | H2O
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 7-[(S,S)-2,8-diazabicyclo[4.3.0]nonan-8-yl]-6,8-difluoro-1-[(1R,2S)-2-fluorocyclopropyl]-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 320 mg | [C@@H]12NCCC[C@H]2CN(C1)C1=C(C=C2C(C(=CN(C2=C1F)[C@H]1[C@H](C1)F)C(=O)O)=O)F | C20H20F3N3O3
